US03978229
(1) Dimethyl 2-oxo-tridecylphosphonate
84 g. of dimethyl methylphosphonate were dissolved in 400 ml. of tetrahydrofuran and cooled to -60°C. Under an atmosphere of nitrogen, n-butyllithium (prepared from 14 g. of lithium, 116 g. of n-butyl bromide and 510 ml. of diethyl ether) was added dropwise to the solution while maintaining the temperature below -50°C. and then stirred for 30 minutes. To the solution thus obtained, 38 g. of lauric acid ethyl ester in 140 ml. of tetrahydrofuran were added at below -55°C. and stirred for 16 hours. The reaction mixture was then neutralized with acetic acid, concentrated, dissolved in a small amount of water and extracted with diethyl ether. The extracts were washed with water, dried, concentrated and distilled to give 50 g. of the title compound having the following physical characteristic:

reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | 510 ml, 14 g | C(CCC)[Li]
reactant | lauric acid ethyl ester | C(C)OC(CCCCCCCCCCC)=O | C14H28O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dimethyl 2-oxo-tridecylphosphonate | O=C(CP(OC)(OC)=O)CCCCCCCCCCC | C15H31O4P
